US05235103
To a solution of 7.0 g of R(+)-2-amino-7-hydroxy-1,2,3,4-tetrahydronaphtalene monohydrate (PREPARATION II), 5.8 g of racemic mandelic acid, 15.3 g of BOP in 200 ml of anhydrous methylene chloride there is added 3.9 g of triethylamine slowly and the solution thus obtained is stirred at room temperature for 3 hours. A volume of 100 ml of a saturated sodium chloride solution is added. The mixture is stirred for 30 minutes at room temperature and 400 ml of ethyl acetate are added thereto. The phases thus obtained are separated and the aqueous phase is eliminated. The organic phase is washed twice with 50 ml of 2N hydrochloric acid, then twice with a saturated sodium bicarbonate solution and, then, the organic phase is dried over sodium sulfate, filtered and evaporated to dryness. The product thus obtained is purified by flash chromatography (elution with a 6/4 mixture of ethyl acetate/cyclohexane) and all of the fractions are collected to give the N-[(2R)-7-hydroxy-1,2,3,4-tetrahydronaphth-2-yl]-(RS)-mandelamide as diastereoisomeric mixture.

reactant | racemic mandelic acid | 5.8 g | C(C(O)C1=CC=CC=C1)(=O)O | C8H8O3
reactant | BOP | 15.3 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 3.9 g | C(C)N(CC)CC | C6H15N
reactant | sodium chloride | 100 ml | [Cl-].[Na+]
reactant | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | N-[(2R)-7-hydroxy-1,2,3,4-tetrahydronaphth-2-yl]-(RS)-mandelamide | OC1=CC=C2CC[C@H](CC2=C1)NC(C(O)C1=CC=CC=C1)=O | C18H19NO3
